US08609688B2
tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50.0 mg, 0.101 mmol), cis-2,6-dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine (58.5 mg, 0.153 mmol), Pd(dppf)2Cl2.DCM (8.32 mg, 0.0102 mmol), and 2M NaOH aq. (0.150 mL, 0.310) in DME (2 mL) was heated at 80° C. for 10 hours under nitrogen. After cooling to room temperature, the mixture was diluted with DCM and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (CHCl3/EtOAc=2:1→1:1→1:2) to afford desired product (29.0 mg, 44.1%) as pale yellow foam.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.101 mmol, 50.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | cis-2,6-dimethyl-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]morpholine | 0.153 mmol, 58.5 mg | C[C@@H]1CN(C[C@@H](O1)C)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C18H28BNO3
reactant | NaOH | 2M, 0.150 mL | [OH-].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DCM | 0.0102 mmol, 8.32 mg | C(Cl)Cl | CH2Cl2
product | tert-Butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-{3-[cis-2,6-dimethylmorpholin-4-yl]phenyl}-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 29.0 mg, 44.1% | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)C2=CC(=CC=C2)N2C[C@H](O[C@H](C2)C)C)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C38H43N7O3
